US04021431
Catalytic reduction of the 1-benzoyl-3-[2-(2-cyclohexylmethylpiperidino)ethyl]-5-benzyloxy-2-methylindole described above in Example 53 with hydrogen over a palladium-on-charcoal catalyst at about 50 pounds p.s.i.g. pressure affords 1-benzoyl-3-[2-(2-cyclohexylmethylpiperidino)ethyl]-5-hydroxy-2-methylindole.

reactant | 1-benzoyl-3-[2-(2-cyclohexylmethylpiperidino)ethyl]-5-benzyloxy-2-methylindole | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)CCN1C(CCCC1)CC1CCCCC1)C | C37H44N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1-benzoyl-3-[2-(2-cyclohexylmethylpiperidino)ethyl]-5-hydroxy-2-methylindole | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC(=CC=C12)O)CCN1C(CCCC1)CC1CCCCC1)C | C30H38N2O2
